US05646140
N-isopropyl-N-phenyl-2-(2-phenylaminophenylamino)-acetamide
Potassium carbonate (6.9 g) was added to a solution of N-phenylphenylene diamine (9.2 g) in DMF and 2-bromo-N-isopropyl-N-phenyl acetamide (12.7 g) in DMF (200 ml) and the mixture was allowed to stir overnight. The DMF was evaporated in vacuo and the residue was dissolved in ethyl acetate (400 ml) and washed exhaustively with aqueous 1N HCl (4×250 ml). The organic layer was washed with water (2×200 ml), dried (Na2SO4) and evaporated to give 17.8 gm of crude alkylated product. The oil was purified by chromatography on silica gel (600 g) using first CHCl3 (8000 mL), then hexane:ethyl acetate (2:1, 8000 ml) as eluents to give the title compound (10 g), as an oil. 1H-NMR (300 MHz, CDCl3): d 7.42-6.8 (m, 14 H), 6.36 (d, 1H), 4.95 (m, 1H), 3.22 (s, 2H), 1.05 (d, 6H); MS (FAB)=360 (MH+); TLC, Rf=0.18 (CHCl3).

reactant | Potassium carbonate | 6.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-phenylphenylene diamine | 9.2 g | C1(=CC=CC=C1)NC1=C(C=CC=C1)N | C12H12N2
reactant | 2-bromo-N-isopropyl-N-phenyl acetamide | 12.7 g | BrCC(=O)N(C1=CC=CC=C1)C(C)C | C11H14BrNO
solvent | DMF | CN(C)C=O | C3H7NO
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | N-isopropyl-N-phenyl-2-(2-phenylaminophenylamino)-acetamide | 10 g | C(C)(C)N(C(CNC1=C(C=CC=C1)NC1=CC=CC=C1)=O)C1=CC=CC=C1 | C23H25N3O
